datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[O:4])[H:11])([H:5])([H:6])[H:7].[H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[O:4])[H:11])[H:12])([H:5])([H:6])[H:7],0.0
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6][H:12])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9],113.3864
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([c:15]1[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]([H:34])[c:20]1[H:35])[H:30])[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:27])([H:28])[H:29])([C:14]([c:15]1[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]([H:34])[c:20]1[H:35])[H:30])[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:7])([H:5])[H:6],80.4165
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29],-6.276
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3](=[C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])=[C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])([H:19])[H:20])[H:18])[H:17])([H:11])([H:12])[H:13]>>[C:0]([C:1]1([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])=[C:4]([H:18])[C:5]([H:19])([H:20])[C:6]([C:7]([H:21])([H:22])[H:23])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])([H:11])([H:12])[H:13],107.864
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([O:12][O:13])([H:14])([H:15])[H:16]>>[C:0]([C:1]([O:2][C:3]=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:13][O:12][C:11]([H:14])([H:15])[H:16],58.19944
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])=[C:9]([C:10]([H:23])([H:24])[H:25])[H:22])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[C:9]1([C:10]([H:23])([H:24])[H:25])[H:22])[H:11],42.9697
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])=[C:9]([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])[C:9]1([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])[H:12],78.3663
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:9]([C:8]([H:16])([H:17])[H:18])([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19],30.2085
[O:0]=[S:1](=[O:2])[O:3][H:4].[O:5][O:6]>>[H:4][O:5][O:6].[O:0]=[S:1](=[O:2])=[O:3],2.744704
[C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])([H:8])[H:9].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])([H:8])[H:9].[S:0]=[C:1][S:2][H:4],145.645
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:17]([H:18])([H:19])[H:20],31.689616
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27][C:28]([H:31])([H:32])[H:33])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:27](=[C:26]([H:29])[H:30])[C:28]([H:31])([H:32])[H:33])[H:14])([H:12])[H:13],9.07928
[C:0]([N:1]([H:4])[H:5])([H:2])[H:3].[H:6]>>[C:0](=[N:1][H:5])([H:2])[H:3].[H:4][H:6],-3.72376
[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[C:6]([O:7])([H:8])([H:9])[H:10]>>[C:0]([O:1][O:2][H:8])([H:3])([H:4])[H:5].[C:6](=[O:7])([H:9])[H:10],0.0
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],20.2087
